US08053431B2
To a solution of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid methyl ester (5.0 g, 0.0204 mol) in THF/water 1:1 (100 mL) was added with stirring LiOH (0.73 g, 0.0306 mol) and the mixture was stirred for 5 h at ambient temperature. The solvent was evaporated and to the residue was added ice water (100 mL). The pH of the reaction mixture was adjusted to 5 with 1N HCl and the mixture extracted with EtOAc (5×100 mL). The combined organic phases were washed with saturated brine solution (100 mL), dried (Na2SO4) and the solvent evaporated affording 4.2 g (89%) of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid as an ash coloured solid. MS-ESI m/z 232 (M+1); 1H NMR (300 MHz, DMSO-d6) δ 3.8 (t, 2H), 4.5 (t, 2H), 7.8 (d, 1H), 7.9 (d, 1H), 8.25 (s, 1H), 8.4 (s, 1H).

reactant | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 0.0204 mol, 5.0 g | COC(=O)C1=CC2=C(N(C=N2)CCN=[N+]=[N-])C=C1 | C11H11N5O2
reactant | LiOH | 0.0306 mol, 0.73 g | [Li+].[OH-]
solvent | THF water | 100 mL | C1CCOC1.O
product | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid | 4.2 g, 89% | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)O | C10H9N5O2
